US05344843
3-Chloroperbenzoic acid (4.73 g) was added to a solution of 4'-fluoro-3-(1-methylethyl)[1,1'-biphenyl]-2-carboxaldehyde (3.55 g) in dichloromethane (100 mL) and the reaction mixture was stirred at room temperature overnight. The precipitated solids were removed by filtration and the filtrate was washed in turn with water, saturated sodium bisulfite solution, sodium bicarbonate solution and brine. After the dried (MgSO4) organic layer was evaporated, the crude product was purified by HPLC (ethyl acetate-hexane; 1:49) to afford 2.5 g of 4'-fluoro-3-(1-methylethyl)[1,1'biphenyl]-2-ol formate as a oil.

reactant | 3-Chloroperbenzoic acid | 4.73 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 4'-fluoro-3-(1-methylethyl)[1,1'-biphenyl]-2-carboxaldehyde | 3.55 g | FC1=CC=C(C=C1)C=1C(=C(C=CC1)C(C)C)C=O | C16H15FO
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 4'-fluoro-3-(1-methylethyl)[1,1'biphenyl]-2-ol formate | 2.5 g | C(=O)OC=1C(=CC=CC1C(C)C)C1=CC=C(C=C1)F | C16H15FO2
